US07816391B2
Methyl 4-[4-(cyclohexylcarbamoyl)-5-cyclohexylsulfanylpyrazol-1-yl]benzoate was prepared from cyclohexylthiol and methyl 4-[5-chloro-4-(cyclohexylcarbamoyl)pyrazol-1-yl]benzoate (Intermediate#15) by the same process used for Intermdiate#96.

reactant | cyclohexylthiol | C1CCC(CC1)S | C6H12S
reactant | methyl 4-[5-chloro-4-(cyclohexylcarbamoyl)pyrazol-1-yl]benzoate | ClC1=C(C=NN1C1=CC=C(C(=O)OC)C=C1)C(NC1CCCCC1)=O | C18H20ClN3O3
product | Methyl 4-[4-(cyclohexylcarbamoyl)-5-cyclohexylsulfanylpyrazol-1-yl]benzoate | C1(CCCCC1)NC(=O)C=1C=NN(C1SC1CCCCC1)C1=CC=C(C(=O)OC)C=C1 | C24H31N3O3S
